US09062144B2
A second reactor (7.6 L, purchased from Chemineer, Inc.) was used to make poly(t-butyl styrene) (“PtBuSt”). The second reactor was first charged with 0.51 lbs of t-butyl styrene, followed by 3 lbs of hexane. Polymerization was initiated at 57° C. by adding 3 ml of 1.6 M oligomeric oxolanyl propanes in hexane and 4 ml of 1.54 M n-butyllithium in hexane. The polymerization was then allowed to continue for approximately two hours. The GPC analysis indicated that the PtBuSt in the solution had an Mn of 48,880 and an Mw/Mn of 1.12. Then, the PtBuSt/hexane solution was charged into the polybutadiene solution prepared in the first reactor as described above. After thoroughly mixing, 450 ml of the mixed solution, which was still chemically alive, was placed into a clean, dry, nitrogen purged closed bottle. Polymerization was then extended by charging 24 ml of a styrene/hexane blend (containing 33 weight percent styrene) to form a polystyrene (“PS”) block on the PBd and PtBuSt blocks. After approximately half an hour, the resulting diblock copolymers (i.e., PBd-PS and PtBuSt-PS) formed spherical micelles in the hexane solution (about 14 weight percent solid aggregated) with the styrene blocks directed toward the center of the micelle structures and the butadiene and t-butylstyrene blocks as tails extending therefrom. After forming the micelles, 1 ml of divinyl benzene (“DVB”) was added to the bottle in order to polymerize and crosslink the polystyrene core.

reactant | butadiene | C=CC=C | C4H6
reactant | t-butylstyrene | C(C)(C)(C)C=CC1=CC=CC=C1 | C12H16
product | divinyl benzene | 1 ml | C(=C)C1=C(C=CC=C1)C=C | C10H10
